US06291452B1
A mixture of (3RS)-3-benzyloxycarbonylamino-2,3-dihydro-5-ethyl-1-ethoxycarbonylmethyl-9-methyl-1H-1,4-benzodiazepin-2-one (1.55 g) and 1N sodium hydroxide (7.0 ml) in 1,2-dimethoxyethane (10 ml) was stirred at room temperature overnight. The reaction mixture was evaporated in vacuo to afford a residue, which was dissolved in a mixture of ethyl acetate and 1N aqueous hydrochloric acid. The separated organic layer was washed with water and brine, and then dried over magnesium sulfate. The solvent was evaporated in vacuo to afford a residue, which was triturated in diisopropyl ether and collected by filtration to give (3RS)-3-benzyloxycarbonylamino-5-ethyl-1-carboxymethyl-2,3-dihydro-9-methyl-1H-1,4-benzodiazepin-2-one (1.22 g, 84.2% yield) as a white crystalline powder.

reactant | (3RS)-3-benzyloxycarbonylamino-2,3-dihydro-5-ethyl-1-ethoxycarbonylmethyl-9-methyl-1H-1,4-benzodiazepin-2-one | 1.55 g | C(C1=CC=CC=C1)OC(=O)NC1C(N(C2=C(C(=N1)CC)C=CC=C2C)CC(=O)OCC)=O | C24H27N3O5
reactant | sodium hydroxide | 1N, 7.0 ml | [OH-].[Na+]
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 1N | Cl | ClH
product | (3RS)-3-benzyloxycarbonylamino-5-ethyl-1-carboxymethyl-2,3-dihydro-9-methyl-1H-1,4-benzodiazepin-2-one | 1.22 g, 84.2% yield | C(C1=CC=CC=C1)OC(=O)NC1C(N(C2=C(C(=N1)CC)C=CC=C2C)CC(=O)O)=O | C22H23N3O5
